US07115598B2
b) 5-{(3S)-3-(4-Chlorophenyl)-4-[(R)-1-(4-chlorophenyl)-ethyl]-7-iodo-2,5-dioxo-2,3,4,5-tetrahydro-benzo[e][1,4]diazepin-1-yl}-pentanoic acid
5-{(3S)-3-(4-Chloro-phenyl)-4-[(R)-1-(4-chloro-phenyl)-ethyl]-7-iodo-2,5-dioxo-2,3,4,5-tetrahydro-benzo[e][1,4]diazepin-1-yl}-pentanoic acid tert-butyl ester (1.0 g, 1.4 mmol) was dissolved in a solution of 20% TFA [10 mL] in dichloromethane at room temperature for 2 hours. The reaction was concentrated and the product was purified by chromatography (hexane: EtOAc 1:1) to give the title compound (0.88 g, 96%). 1H NMR (400 MHz, DMSO-d6) δ 7.75 (d, J=2.3 Hz. 1H), 7.62–7.56 (m, 3H), 7.39 (d, J=8.6 Hz, 2H), 7.00 (d, J=8.6 Hz, 2H), 6.92 (d, J=8.6 Hz, 1H), 6.58–6.56 (m, 2H), 6.21–6.14 (m, 1H), 5.27 (s, 1H), 4.24–4.15 (m, 1H), 3.69–3.61 (m, 1H), 1.80 (t, J=7.2 Hz, 2H), 1.63 (d, J=7.2 Hz, 3H), 1.56–1.21 (m, 4H). Mass spectrum (LCMS, ESI pos.): Calcd for C28H25Cl2IN2O4: 650.02; found 650.8(M+H).

reactant | 5-{(3S)-3-(4-Chloro-phenyl)-4-[(R)-1-(4-chloro-phenyl)-ethyl]-7-iodo-2,5-dioxo-2,3,4,5-tetrahydro-benzo[e][1,4]diazepin-1-yl}-pentanoic acid tert-butyl ester | 1.4 mmol, 1.0 g | C(C)(C)(C)OC(CCCCN1C([C@@H](N(C(C2=C1C=CC(=C2)I)=O)[C@H](C)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)=O)=O | C32H33Cl2IN2O4
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-{(3S)-3-(4-Chlorophenyl)-4-[(R)-1-(4-chlorophenyl)-ethyl]-7-iodo-2,5-dioxo-2,3,4,5-tetrahydro-benzo[e][1,4]diazepin-1-yl}-pentanoic acid | 0.88 g, 96% | ClC1=CC=C(C=C1)[C@@H]1N(C(C2=C(N(C1=O)CCCCC(=O)O)C=CC(=C2)I)=O)[C@H](C)C2=CC=C(C=C2)Cl | C28H25Cl2IN2O4
